2148-01-11 06:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2148-1-11**] 12:58 AM
   - Head CT showed no acute process
   - Lactulose held for NPO while aspirating & intubated
   Allergies:
   Amoxicillin
   Rash;
   Adhesive Bandage (Topical)
   Rash;
   Dicloxacillin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-1-11**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.3
C (97.4
   HR: 76 (72 - 82) bpm
   BP: 99/60(69) {98/60(69) - 118/79(87)} mmHg
   RR: 9 (9 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71 kg (admission): 78 kg
             Total In:
             121 mL
   PO:
             TF:
   IVF:
   31 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    810 mL
   Urine:
   810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -689 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 906 (906 - 906) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 24
   PIP: 16 cmH2O
   Plateau: 14 cmH2O
   SpO2: 99%
   ABG: ///23/
   Ve: 8.7 L/min
   Physical Examination
   Gen: Covered in vomit, intubated & sedated on examination
   HEENT: dry MM, + scleral icterus, OG tube in place
   Pulm: Bilaterally clear to ausculation.
   CV: S1 & S2 regular without murmur
   Abd: Distended, tympanitic, + shifting dullness, firm. Unable to
   determine tenderness.
   Ext: 2+ edema bilteraly.
   Neuro: Intubated & Sedated
   Labs / Radiology
   79 K/uL
   7.8 g/dL
   147 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.8 mEq/L
   10 mg/dL
   110 mEq/L
   142 mEq/L
   23.3 %
   5.4 K/uL
        [image002.jpg]
                             [**2148-1-11**]  12:01 AM
                             [**2148-1-11**]  05:40 AM
   WBC
   5.5
   5.4
   Hct
   24.6
   23.3
   Plt
   84
   79
   Cr
   0.9
   1.0
   Glucose
   136
   147
   Other labs: PT / PTT / INR:24.9/49.5/2.4, ALT / AST:31/67, Alk Phos / T
   Bili:151/4.3, Amylase / Lipase:88/75, Lactic Acid:3.3 mmol/L,
   Albumin:3.1 g/dL, Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Imaging: Head CT: No intracranial hemorrhage. Soft tissue density and
   gas within the posterior
   nasal cavity and nasopharynx, incompletely imaged.
   CXR: ET & OG tube in place, no consolidation
   Microbiology: Blood/Urine Cx pending
   Assessment and Plan
   41 year old gentleman with a history of Alcoholic Cirrhosissecondary to
   EtOH + HCV, peripheral edema, hx of SBP and portal and PAH, w/
   recurrent episodes of enceophalopathy presents after vomiting and
   aspirating.  He is now sedated and intubated and stable on transfer.
   # Aspiration: The patient's mental status and vomiting are evidence
   that he is unable to protect his airway and has been intubated at this
   time.
   - Mechanical Ventilation in AC, wean as tolerated
   - Stat Chest X-ray to confirm placement and evaluate aspiration
   - ABG
   - Propofol for sedation
   - NPO including medications
   - Consider PEG placement as long term management
   # Recurrent encephalopathy. Trigger unknown. Urine and Blood cultures
   negative to date.
   - Hold lactulose/rifaximin in the immediate transfer period, reassess
   as airway status becomes clear, then: Lactulose q4hours, rifaximin 400
   tid
   - Continue SBP PPx w/ Cipro IV
   - Hold Prograf
   - Aspiration precautions.
   # ESLD. [**1-22**] EtOH and HCV. Ascites, peripheral edema, history of
   spontaneous bacterial peritonitis, portal and pulmonary
   hypertension, sleep apnea, and severe encephalopathy.
   - Lactulose as above.
   - Cipro for SBP ppx
   - Hold Nadolol while intubated
   - Hold continue spironolactone, lasix while intubated
   - continue iloprost under Respiratory Therapy Guidance
   # Anemia: Known Grade II varices s/p banding without evidence active
   bleeding and stable Hct. Chronically G+ stool, chronic. No clear
   source.
   - Active type and screen
   - Hct daily
   - Guaiac stools
   - PPI
   - consider colonoscopy as inpatient
   # Thrombocytopenia: [**1-22**] liver disease. Platelets within baseline.
   # Hypothyroidism: Continue levothyroxine as 50mg IV daily until
   returning to 88mcg PO daily.
   # Pulmonary HTN: Continue iloprost inhalation 6x/day.
   # OSA: Intubated, CPAP once on the floor.
   # FEN: NPO, No IVF, replete 'lytes prn
   # PPX: pneumoboots, IV PPI, bowel regimen
   # Code: FULL
   # Dispo: Once Encephalopathy improves.
   # Communication: [**Name (NI) 2185**] (mother) [**Telephone/Fax (1) 5026**] cell, [**Telephone/Fax (1) 5027**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2148-1-11**] 12:00 AM
   16 Gauge - [**2148-1-11**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2148-01-11 09:37:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   41yo with ETOH/HCV cirrhosis, OSA, recurrent encephalopathy.  Admitted
   to floor on [**1-10**] with encephalopathy.  Had worsening MS last night,
   vomitted, aspirated, was intubated and brought to MICU.  Had persistent
   right-[**Hospital1 **] gaze - negative head CT for acute bleed.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2148-1-11**] 12:58 AM
   Allergies:
   Amoxicillin
   Rash;
   Adhesive Bandage (Topical)
   Rash;
   Dicloxacillin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2148-1-11**] 08:32 AM
   Other medications:
   cipro
   levoxyl
   rifaxamin
   lactulose
   Changes to medical and family history:
   pulmonary HTN
   hypothyroid
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-1-11**] 09:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.3
C (97.4
   HR: 93 (72 - 93) bpm
   BP: 114/67(79) {98/60(69) - 118/79(87)} mmHg
   RR: 12 (9 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71 kg (admission): 78 kg
             Total In:
             232 mL
   PO:
             TF:
   IVF:
   52 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    835 mL
   Urine:
   835 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -603 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 880 (880 - 906) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 14
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 24
   PIP: 16 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 8.7 L/min
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: No(t) Non-tender, Distended, firm
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   79 K/uL
   147 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.8 mEq/L
   10 mg/dL
   110 mEq/L
   142 mEq/L
   23.3 %
   5.4 K/uL
        [image002.jpg]
                             [**2148-1-11**]  12:01 AM
                             [**2148-1-11**]  05:40 AM
   WBC
   5.5
   5.4
   Hct
   24.6
   23.3
   Plt
   84
   79
   Cr
   0.9
   1.0
   Glucose
   136
   147
   Other labs: PT / PTT / INR:24.9/49.5/2.4, ALT / AST:31/67, Alk Phos / T
   Bili:151/4.3, Amylase / Lipase:88/75, Lactic Acid:3.3 mmol/L,
   Albumin:3.1 g/dL, Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Imaging: head CT: no ICH
   CXR: no infiltrates
   Assessment and Plan
 ESOPHAGEAL VARICES:  no current evidence of bleeding
 Encephalopathy:  Recurrent bouts of encephalopathy.  Unclear what
   else can be done to prevent this -  will discuss with hepatology.
   Respiratory failure:  Will stop propofol and attempt to extubate.
   Cirrhosis/ascites:  will discuss with hepatology about need for tap.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2148-1-11**] 12:00 AM
   16 Gauge - [**2148-1-11**] 12:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2148-01-12 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PARACENTESIS - At [**2148-1-11**] 03:00 PM
 INVASIVE VENTILATION - STOP [**2148-1-12**] 04:15 AM
   - Diagnostic paracentesis did not show evidence of SBP, therapeutic
   removed 3L
   - Macrophages in ascitic fluid, unclear significance
   - Put on [**Name (NI) 4002**] because times of apnea and large tidal volumes overnight
   - The patient became more awake overnight and demanded ET and OG tubes
   out.  SW patient and convinced to stay compliant, however wrote for
   haldol to be used as needed as patient was throwing things at the
   nurses.
   - Extubated at 4am
   - Repleted K
   Allergies:
   Amoxicillin
   Rash;
   Adhesive Bandage (Topical)
   Rash;
   Dicloxacillin
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2148-1-11**] 09:59 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2148-1-11**] 08:32 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2148-1-12**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 84 (64 - 93) bpm
   BP: 124/70(84) {98/56(66) - 124/84(91)} mmHg
   RR: 12 (7 - 16) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71 kg (admission): 78 kg
             Total In:
                                                                  1,639 mL
                                                                    723 mL
   PO:
             TF:
   IVF:
                                                                  1,139 mL
                                                                    543 mL
   Blood products:
   Total out:
                                                                  4,152 mL
                                                                    945 mL
   Urine:
                                                                  1,152 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
                                                                  3,000 mL
   Balance:
                                                                 -2,513 mL
                                                                   -222 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Set): 0 (0 - 400) mL
   Vt (Spontaneous): 504 (504 - 1,076) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 22
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: 7.53/29/231/24/3
   Ve: 6.1 L/min
   PaO2 / FiO2: 578
   Physical Examination
   Gen: Covered in vomit, intubated & sedated on examination
   HEENT: dry MM, + scleral icterus, OG tube in place
   Pulm: Bilaterally clear to ausculation.
   CV: S1 & S2 regular without murmur
   Abd: Distended, tympanitic, + shifting dullness, firm. Unable to
   determine tenderness.
   Ext: 2+ edema bilteraly.
   Neuro: Intubated & Sedated
   Labs / Radiology
   71 K/uL
   7.9 g/dL
   116 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.0 mEq/L
   12 mg/dL
   112 mEq/L
   141 mEq/L
   23.8 %
   5.9 K/uL
        [image002.jpg]
                             [**2148-1-11**]  12:01 AM
                             [**2148-1-11**]  05:40 AM
                             [**2148-1-11**]  04:12 PM
                             [**2148-1-11**]  06:18 PM
                             [**2148-1-12**]  03:14 AM
   WBC
   5.5
   5.4
   7.5
   5.9
   Hct
   24.6
   23.3
   23.9
   23.8
   Plt
   84
   79
   67
   71
   Cr
   0.9
   1.0
   0.9
   0.8
   TCO2
   25
   Glucose
   136
   147
   119
   116
   Other labs: PT / PTT / INR:23.5/50.4/2.3, ALT / AST:30/65, Alk Phos / T
   Bili:111/5.1, Amylase / Lipase:71/51, Lactic Acid:2.6 mmol/L,
   Albumin:3.1 g/dL, LDH:262 IU/L, Ca++:8.5 mg/dL, Mg++:1.6 mg/dL, PO4:3.2
   mg/dL
   Imaging: CXR: No acute process
   Microbiology: GRAM STAIN (Final [**2148-1-11**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         NO MICROORGANISMS SEEN.
   Assessment and Plan
   41 year old gentleman with a history of Alcoholic Cirrhosissecondary to
   EtOH + HCV, peripheral edema, hx of SBP and portal and PAH, w/
   recurrent episodes of encephalopathy presents after vomiting and
   aspirating.  He is intubated and minimally responsive this morning.
   # Aspiration: The patient appears to have avoided true aspiration and
   is without hypoxia or changes on chest film.  He remains
   encephalopathic.
   - PSV, likely extubation today as mental status improves.
   - Discuss long term options with Hepatology to avoid repeat aspiration
   # Recurrent encephalopathy. Trigger unknown. Urine and Blood cultures
   negative to date. Head CT negative, awaiting final read
   - Restarted Lactulose q4hours, rifaximin 400 tid
   - Continue SBP PPx w/ Cipro IV, change to PO once extubated
   - Aspiration precautions
   # ESLD. [**1-22**] EtOH and HCV. Ascites, peripheral edema, history of
   spontaneous bacterial peritonitis, portal and pulmonary
   hypertension, sleep apnea, and severe encephalopathy.
   - Lactulose as above.
   - Cipro for SBP ppx
   - Restart Nadolol
   - Hold continue spironolactone, lasix while intubated
   - Consider paracentesis today
   # Pulmonary Hypertension
   - continue iloprost under Respiratory Therapy guidance
   # Anemia: Known Grade II varices s/p banding without evidence active
   bleeding and stable Hct. Chronically G+ stool, chronic. No clear
   source.
   - Active type and screen
   - Hct daily
   - Guaiac stools
   - PPI
   - consider colonoscopy as inpatient
   # Thrombocytopenia: [**1-22**] liver disease. Platelets within baseline.
   # Hypothyroidism: Continue levothyroxine 88mcg PO daily.
   # Pulmonary HTN: Continue iloprost inhalation 6x/day.
   # OSA: Intubated, CPAP once on the floor.
   # FEN: NPO except meds, No IVF, replete 'lytes prn
   # PPX: pneumoboots, IV PPI, bowel regimen
   # Code: FULL, Family Mtg with liver today about long term solutions to
   aspiration
   # Dispo: Once Encephalopathy improves.
   # Communication: [**Name (NI) 2185**] (mother) [**Telephone/Fax (1) 5026**] cell, [**Telephone/Fax (1) 5027**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2148-1-11**] 12:00 AM
   16 Gauge - [**2148-1-11**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2148-01-12 10:46:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   41 yo with HCV cirrhosis, recurrent encephalopathy - extubated this
   morning and looks great.
   24 Hour Events:
 PARACENTESIS - At [**2148-1-11**] 03:00 PM - no evidence for SBP
 INVASIVE VENTILATION - STOP [**2148-1-12**] 04:15 AM
   Allergies:
   Amoxicillin
   Rash;
   Adhesive Bandage (Topical)
   Rash;
   Dicloxacillin
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2148-1-12**] 10:01 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2148-1-12**] 10:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.4
   HR: 67 (64 - 89) bpm
   BP: 119/70(83) {98/56(66) - 124/84(91)} mmHg
   RR: 11 (7 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71 kg (admission): 78 kg
             Total In:
                                                                  1,639 mL
                                                                  1,183 mL
   PO:
             TF:
   IVF:
                                                                  1,139 mL
                                                                  1,003 mL
   Blood products:
   Total out:
                                                                  4,152 mL
                                                                  1,015 mL
   Urine:
                                                                  1,152 mL
                                                                    315 mL
   NG:
   Stool:
   Drains:
                                                                  3,000 mL
   Balance:
                                                                 -2,513 mL
                                                                    168 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Set): 0 (0 - 400) mL
   Vt (Spontaneous): 504 (504 - 1,076) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 22
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: 7.53/29/231/24/3
   Ve: 6.1 L/min
   PaO2 / FiO2: 578
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm, Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: voice,
   Movement: purposeful, Tone: normal
   Labs / Radiology
   7.9 g/dL
   71 K/uL
   116 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.0 mEq/L
   12 mg/dL
   112 mEq/L
   141 mEq/L
   23.8 %
   5.9 K/uL
        [image002.jpg]
                             [**2148-1-11**]  12:01 AM
                             [**2148-1-11**]  05:40 AM
                             [**2148-1-11**]  04:12 PM
                             [**2148-1-11**]  06:18 PM
                             [**2148-1-12**]  03:14 AM
   WBC
   5.5
   5.4
   7.5
   5.9
   Hct
   24.6
   23.3
   23.9
   23.8
   Plt
   84
   79
   67
   71
   Cr
   0.9
   1.0
   0.9
   0.8
   TCO2
   25
   Glucose
   136
   147
   119
   116
   Other labs: PT / PTT / INR:23.5/50.4/2.3, ALT / AST:30/65, Alk Phos / T
   Bili:111/5.1, Amylase / Lipase:71/51, Lactic Acid:2.6 mmol/L,
   Albumin:3.1 g/dL, LDH:262 IU/L, Ca++:8.5 mg/dL, Mg++:1.6 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
 ESOPHAGEAL VARICES:  no bleeding
 Encephalopathy:  much improved
 Cirrhosis:  increase rifaxamin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2148-1-11**] 12:00 AM
   16 Gauge - [**2148-1-11**] 12:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes